US04672062
15.3 g 3-butylamino-2,3,4,5-tetrahydro-1-benzoxepin-5-ol hydrochloride were stirred for four hours at room temperature in 80 ml of an 85 percent aqueous phosphoric acid solution. Subsequently, the solution was poured over 100 g of ice, and the mixture was worked up as described in Example 1. 12.1 g of 3-butylamino-2,3-dihydro-1-benzoxepine hydrochloride were obtained. Melting point: 138 degrees C.

reactant | 3-butylamino-2,3,4,5-tetrahydro-1-benzoxepin-5-ol hydrochloride | 15.3 g | Cl.C(CCC)NC1COC2=C(C(C1)O)C=CC=C2
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
product | 3-butylamino-2,3-dihydro-1-benzoxepine hydrochloride | 12.1 g | Cl.C(CCC)NC1COC2=C(C=C1)C=CC=C2 | InChI=1S/C14H19NO.ClH/c1-2-3-10-15-13-9-8-12-6-4-5-7-14(12)16-11-13;/h4-9,13,15H,2-3,10-11H2,1H3;1H
